US04018794
By replacing in Example 6, step A, 4-benzoyl-3hydroxy-5-nitrobenzoic acid with 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoic acid and following the procedure described, ethyl 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoate is obtained with a melting point of 145°-147° C.

reactant | 4-benzoyl-3hydroxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])O | C14H9NO6
reactant | 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoic acid | OC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C15H11NO6
product | ethyl 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoate | OC=1C=C(C(=O)OCC)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C17H15NO6
